US04766213
A solution of 2.65 g of 2-(o-formylphenyl)-4-phenylthiazole [M.P. 99°-100°; obtainable by reacting o-dimethoxymethylbenzonitrile with H2S to give o-dimethoxymethylthiobenzamide (M.P. 100°-102°), reacting the latter with α-bromoacetophenone to give o-dimethoxymethylthiobenzoic acid imide S-phenacyl ester (oil), and cyclizing the latter to give 2-(o-dimethoxymethylphenyl)-4-phenylthiazole by boiling with methanol and subsequent hydrolysis with aqueous hydrochloric acid], 1.06 ml of 33% aqueous ammonia, 2.32 g of methyl acetoacetate and 120 ml of methanol is boiled for 18 hours and evaporated. Treating the residue with ether gives 2,6-dimethyl-3,5-dimethoxycarbonyl-4-o-(4-phenyl-2-thiazolyl)-phenyl-1,4-dihydropyridine, M.P. 145°-148° (decomposition).

reactant | 2-(o-formylphenyl)-4-phenylthiazole | 2.65 g | C(=O)C1=C(C=CC=C1)C=1SC=C(N1)C1=CC=CC=C1 | C16H11NOS
reactant | o-dimethoxymethylbenzonitrile | COC(C1=C(C#N)C=CC=C1)OC | C10H11NO2
reactant | H2S | S | H2S
product | o-dimethoxymethylthiobenzamide | COC(C1=C(C(=S)N)C=CC=C1)OC | C10H13NO2S
